US04797495
Phenanthro[9,10-c]thiophene (H. C. Pars Pharmaceutical Laboratories, Inc.) was formylated using the procedure of A. Rieche et al., Chem. Ber. 93, 88 (1960) to give a 85.9% yield of phenanthro[9,10-c]thiophene-1-carbaldehyde, mp 198°-199°, (C,H,S), (THF/95% EtOH).

reactant | Phenanthro[9,10-c]thiophene | C=1SC=C2C1C1=CC=CC=C1C=1C=CC=CC12 | C16H10S
reactant | THF | C1CCOC1 | C4H8O
product | phenanthro[9,10-c]thiophene-1-carbaldehyde | 85.9% yield | C=1(SC=C2C1C1=CC=CC=C1C=1C=CC=CC12)C=O | C17H10OS
